US08865682B2
A mixture of (3E)-6-fluoro-3-[4-(2-fluoropyridin-4-yl)-5,5-dimethylfuran-2(5H)-ylidene]-1,3-dihydro-2H-indol-2-one (50 mg, 0.15 mmol) and 2-(2-(piperazin-1-yl)ethoxy)ethanol (50 mg, 0.29 mmol) in 2 mL of DMSO was heated in 105° C. bath for 6 hours. The mixture was cooled to room temp and poured into 100 mL of water. The precipitates were filtered, washed with water and dried in vacuo to give (3E)-6-fluoro-3-[4-(2-{4-[2-(2-hydroxyethoxy)ethyl]piperazin-1-yl}pyridin-4-yl)-5,5-dimethylfuran-2(5H)-ylidene]-1,3-dihydro-2H-indol-2-one as a brown solid. Yield: 64 mg, 89%.

reactant | (3E)-6-fluoro-3-[4-(2-fluoropyridin-4-yl)-5,5-dimethylfuran-2(5H)-ylidene]-1,3-dihydro-2H-indol-2-one | 0.15 mmol, 50 mg | FC1=CC=C2\C(\C(NC2=C1)=O)=C\1/OC(C(=C1)C1=CC(=NC=C1)F)(C)C | C19H14F2N2O2
reactant | 2-(2-(piperazin-1-yl)ethoxy)ethanol | 0.29 mmol, 50 mg | N1(CCNCC1)CCOCCO | C8H18N2O2
reactant | water | 100 mL | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (3E)-6-fluoro-3-[4-(2-{4-[2-(2-hydroxyethoxy)ethyl]piperazin-1-yl}pyridin-4-yl)-5,5-dimethylfuran-2(5H)-ylidene]-1,3-dihydro-2H-indol-2-one | FC1=CC=C2\C(\C(NC2=C1)=O)=C\1/OC(C(=C1)C1=CC(=NC=C1)N1CCN(CC1)CCOCCO)(C)C | C27H31FN4O4
